US09193693B2
Step 7. Methyl 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), and 3-methylmorpholine (443 mg, 4.39 mmol, 10.00 equiv) in DMSO (1 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated in vacuo. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 46 mg (29%) of methyl 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 3-methylmorpholine | 4.39 mmol, 443 mg, 10.00 equiv | CC1NCCOC1 | C5H11NO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | Methyl 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylate | CC1COCCN1C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H21N3O3
